US07521444B2
Methyl 13-cyclohexyl-10-((cyclopropylsulfonyl)carbamoyl)-3-methoxy-7H-indolo[2,1-a][2]benzazepine-6-carboxylate (1.0 g, 1.8 mmol) was dissolved into MeOH//THF (1:1, 24 mL) and treated with 1M aqueous NaOH (5 mL). The reaction mixture was stirred and heated at 60° C. for 1.5 h and cooled to rt. The clear solution was neutralized with 1M aqueous HCl (5 mL) and concentrated to remove organic solvents. The resultant solids were collected by filtration, washed with H2O and dried under vacuum to yield 13-cyclohexyl-10-((cyclopropylsulfonyl)carbamoyl)-3-methoxy-7H-indolo[2,1-a][2]benzazepine-6-carboxylic acid (1.0 g, 1.7 mmol, 94%) as a bright yellow solid (with 0.75 equiv. of THF) which was used without further purification. 1HNMR (300 MHz, CD3OD) δ 1.11-2.24 (m, 17H, 3H from THF), 2.81-2.96 (m, 1H), 3.17-3.28 (m, 1H), 3.69-3.79 (m, 3H, from THF), 3.94 (s, 3H), 4.07-4.33 (m, 1H), 5.55-5.81 (m, 1H), 7.14-7.24 (m, 2H), 7.55-7.64 (m, 2H), 7.88-7.94 (m, 2H), 8.20 (br s, 1H). LCMS: m/e 535 (M+H)+, ret time 3.73 min, column B, 4 minute gradient.

reactant | Methyl 13-cyclohexyl-10-((cyclopropylsulfonyl)carbamoyl)-3-methoxy-7H-indolo[2,1-a][2]benzazepine-6-carboxylate | 1.8 mmol, 1.0 g | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C(=O)OC)C=C(C=C1)OC)C(NS(=O)(=O)C1CC1)=O | C30H32N2O6S
reactant | NaOH | 1M, 5 mL | [OH-].[Na+]
reactant | HCl | 1M, 5 mL | Cl | ClH
reactant | THF | 0.75 equiv. | C1CCOC1 | C4H8O
solvent | MeOH | 24 mL | CO | CH4O
product | 13-cyclohexyl-10-((cyclopropylsulfonyl)carbamoyl)-3-methoxy-7H-indolo[2,1-a][2]benzazepine-6-carboxylic acid | 1.7 mmol, 1.0 g, 94% | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C(=O)O)C=C(C=C1)OC)C(NS(=O)(=O)C1CC1)=O | C29H30N2O6S
